US04256759
To the solution of 4.0 g of phenylcarbamoyl-acetonitrile in 50 ml of dimethylformamide 28 g of potassium tert. butoxide are added while stirring under nitrogen. After 2 hours the resulting suspension is cooled to 5° and 4.0 g of 1-methylpyrrol-2-carboxylic acid chloride (U.S. Pat. No. 3,551,571) are added during 10 minutes. The mixture is stirred for 18 hours at room temperature, poured into 300 ml of ice water and the precipitate formed filtered off. It is washed with water, dried and recrystallized from ethanol, to yield the 1-methyl-β-oxo-α-phenylcarbamoyl-2-pyrrolpropionitrile melting at 172°-174°; it is identical with that obtained according to Example 1.

reactant | phenylcarbamoyl-acetonitrile | 4.0 g | C1(=CC=CC=C1)NC(=O)CC#N | C9H8N2O
reactant | potassium tert. butoxide | CC(C)([O-])C.[K+]
reactant | 1-methylpyrrol-2-carboxylic acid chloride | 4.0 g | CN1C(=CC=C1)C(=O)Cl | C6H6ClNO
solvent | dimethylformamide | 50 ml, 28 g | CN(C=O)C | C3H7NO
product | 1-methyl-β-oxo-α-phenylcarbamoyl-2-pyrrolpropionitrile | CN1C(=CC=C1)C(C(C#N)C(NC1=CC=CC=C1)=O)=O | C15H13N3O2
